US07595397B2
1-Ethyl-2-(S)-benzyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazine
This compound was made in the following manner: 100 mg of 3-(S)-benzyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine was dissolved in THF, 3 equiv. of N,N-diisopropylethylamine were added followed by 2 equiv. of bromoethane. The reaction was be shaken at room temperature overnight. The reaction was concentrated in vacuo. The residue was diluted with DCM and washed with 1N aqueous NaOH solution. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The crude residue was purified by column chromatography to afford the title compound as free base. Treatment with 1 equiv. 2M HCl in dioxane and concentration in vacuo gave 16 mg of its hydrochloride salt. Yield 27%, ES MS (+) m/z 405

reactant | 3-(S)-benzyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine | 100 mg | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C24H25ClN2
reactant | N,N-diisopropylethylamine | 3 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromoethane | 2 equiv. | BrCC | C2H5Br
solvent | THF | C1CCOC1 | C4H8O
product | 1-Ethyl-2-(S)-benzyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazine | C(C)N1[C@H](CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl)CC1=CC=CC=C1 | C26H29ClN2
